US04758440
Heimann (U.S. Pat. No. 2,316,241 dated 13 Apr. 1943) uses a gel that contains more water than the gels used in this invention. The patentee uses concentrated hydrochloric acid (the commercial product generally has 36% HCl) diluted with an equal volume of water, yielding approximately 18% acid. He neutralizes this with 40° Baume waterglass solution (37% sodium silicate) which is also diluted with an equal volume of water, resulting in an approximately 18.5% sodium silicate solution. The ingredients for the gel preparation used in a specific embodiment of the present invention are 41.5% sulfuric acid and 29% sodium silicate. The resulting reaction mixture of the present invention has approximately half the amount of water compared with Heimann's mixture. Those skilled in the art know that this difference in concentration causes the solidification of a gel to take approximately ten times longer for the more dilute system. This is the reason Heimann makes his gel by one of three methods: 1. Precipitation with ammonia, or 2. by letting the mixture stand for several days or 3. by heating the mixture to 90 or 100 degrees C. The gel used in the present invention gelatinizes in 30 to 60 minutes. (Date for this difference of gelation time are given in "The chemistry of silica" by Ralph K. Iler, John Wiley & Sons, 1979, page 368). The differences in the character of gels is given by Heimann in his patent. On page one, left side line 53, he mentions that the stabilizing effect of his product "cannot be attained when employing an ordinary silica gel prepared with an acid". The gel of this invention is an ordinary silica gel prepared with acid.

reactant | hydrochloric acid | Cl | ClH
reactant | waterglass | [O-][Si](=O)[O-].[Na+].[Na+]
reactant | water | O | H2O
product | sodium silicate | approximately 18.5% | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
